US04213905
A process of preparing sodium 5-(p-chlorobenzoyl)-1,4-dimethylpyrrole-2-acetic acid which comprises reacting 5-(p-chlorobenzoyl)-1,4-dimethylpyrrole-2-acetonitrile with ethyl mercaptan in the presence of hydrogen chloride in an anhydrous aprotic organic solvent under an inert atmosphere at or below 10° C. to yield ethyl 5-(p-chlorobenozyl)- 1,4-dimethylpyrrole-2-thiolacetate and then hydrolyzing said thiolacetate by treatment with aqueous sodium hydroxide.

reactant | sodium 5-(p-chlorobenzoyl)-1,4-dimethylpyrrole-2-acetic acid | ClC1=CC=C(C(=O)C2=C(C=C(N2C)CC(=O)O)C)C=C1.[Na]
reactant | 5-(p-chlorobenzoyl)-1,4-dimethylpyrrole-2-acetonitrile | ClC1=CC=C(C(=O)C2=C(C=C(N2C)CC#N)C)C=C1 | C15H13ClN2O
reactant | ethyl mercaptan | C(C)S | C2H6S
reactant | hydrogen chloride | Cl | ClH
product | 1,4-dimethylpyrrole 2-thiolacetate | CN1C=CC(=C1)C.S1C(=CC=C1)CC(=O)[O-] | InChI=1S/C6H9N.C6H6O2S/c1-6-3-4-7(2)5-6;7-6(8)4-5-2-1-3-9-5/h3-5H,1-2H3;1-3H,4H2,(H,7,8)/p-1
